US09120749B2
Cyclopropyl[6-(3,5-difluoro-4-hydroxyphenyl)-4-{4-[1-(dimethylamino)ethyl]piperidin-1-yl}quinolin-3-yl]methanone
Following general procedure F, (6-bromo-4-{4-[1-(dimethylamino)ethyl]piperidin-1-yl}quinolin-3-yl)(cyclopropyl)methanone (60 mg, 0.139 mmol) was reacted with 2,6-difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (39 mg, 0.153 mmol) to afford the desired product (30 mg, 44%) as a light yellow solid: 1H NMR (300 MHz, CD3OD) δ 8.82 (s, 1H), 8.26 (s, 1H), 8.03 (p, J=8.8 Hz, 2H), 7.35 (dd, J=8.0, 1.7 Hz, 2H), 3.56 (t, J=10.3 Hz, 2H), 3.26-3.17 (m, 3H), 2.80 (s, 6H), 2.66-2.53 (m, 1H), 1.96 (d, J=11.2 Hz, 3H), 1.87-1.68 (m, 2H), 1.37-1.22 (m, 8H); ESI MS m/z 480 [C28H31F2N3O2+H]+; HPLC 98.6% (AUC), tR=10.24 min.

reactant | (6-bromo-4-{4-[1-(dimethylamino)ethyl]piperidin-1-yl}quinolin-3-yl)(cyclopropyl)methanone | 0.139 mmol, 60 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N1CCC(CC1)C(C)N(C)C | C22H28BrN3O
reactant | 2,6-difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.153 mmol, 39 mg | FC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BF2O3
product | Cyclopropyl[6-(3,5-difluoro-4-hydroxyphenyl)-4-{4-[1-(dimethylamino)ethyl]piperidin-1-yl}quinolin-3-yl]methanone | 30 mg, 44% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1N1CCC(CC1)C(C)N(C)C)C1=CC(=C(C(=C1)F)O)F | C28H31F2N3O2
